US07504408B2
N-[5-bromo-7-(3-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine
A mixture of N-[5-bromo-7-(3-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine (0.12 g, 0.22 mmol) in morpholine (2 ml) was heated at 40 C for 5 hours and then stirred at room temperature overnight. The solvent was removed under reduced pressure and the residue purified directly by flash chromatography on silica eluting with increasingly polar solutions of methanol 0-8% in dichloromethane followed by trituration with diethyl ether to give the product as a racemate and in the form of a pale yellow solid (0.040 g). NMR Spectrum: (d6DMSO) 1.54 (d, 3H), 2.02-2.13 (m, 2H), 2.46-2.53 (m, 4H), 2.54-2.60 (m, 2H), 3.47 (s, 3H), 3.67-3.73 (m, 4H), 4.04 (s, 3H), 4.27-4.33 (m, 2H), 4.51 (q, 1H), 6.27 (s, 2H), 7.30 (s, 1H), 7.40 (s, 1H), 7.94 (s, 1H), 8.43 (s, 1H), 9.62 (s(broad), 1H). Mass Spectrum: M+H+ 599/601.

reactant | N-[5-bromo-7-(3-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine | 0.22 mmol, 0.12 g | BrC1=C(C2=C(OCO2)C(=C1)C#CC(C)OC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C24H23BrClN3O5
reactant | morpholine | 2 ml | N1CCOCC1 | C4H9NO
product | N-[5-bromo-7-(3-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine | BrC1=C(C2=C(OCO2)C(=C1)C#CC(C)OC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C28H31BrN4O6
